US08669255B2
tert-butyl (7R,8aS)-7-[(5-chloropyridin-2-yl)oxy]hexahydropyrrolo[1,2-a]-pyrazine-2(1H)-carboxylate
To a solution of (7R,8aS)-tert-butyl 7-hydroxyhexahydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate (485 mg, 2 mmol) and 2,5-dichloropyridine (326 mg, 2.2 mmol) in tetrahydrofuran (4 mL) was added potassium tert-butoxide (3 mL, 1 M in tetrahydrofuran). The mixture was stirred at room temperature overnight. The reaction was quenched with water (10 mL), and the crude product was extracted with dichloromethane (2×50 mL). The combined organic fractions were concentrated, and the residue was purified by chromatography on silica gel (dichloromethane/methanol=15:1) to give the title compound. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.40 (s, 9H), 1.80 (m, 2H), 2.06-2.16 (m, 3H), 2.53 (m, 1H), 2.75-2.90 (m, 2H), 3.60 (m, 1H), 3.90-4.10 (m, 2H), 5.25 (m, 1H), 6.83 (d, 1H, J=7 Hz), 7.80 (d, 1H, J=7 Hz), 8.20 (s, 1H); MS (ESI) m/z 354 (M+H)+.

reactant | (7R,8aS)-tert-butyl 7-hydroxyhexahydropyrrolo[1,2-a]pyrazine-2(1H)-carboxylate | 2 mmol, 485 mg | O[C@@H]1C[C@@H]2N(CCN(C2)C(=O)OC(C)(C)C)C1 | C12H22N2O3
reactant | 2,5-dichloropyridine | 2.2 mmol, 326 mg | ClC1=NC=C(C=C1)Cl | C5H3Cl2N
reactant | potassium tert-butoxide | 1 M, 3 mL | CC(C)([O-])C.[K+]
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
product | tert-butyl (7R,8aS)-7-[(5-chloropyridin-2-yl)oxy]hexahydropyrrolo[1,2-a]-pyrazine-2(1H)-carboxylate | ClC=1C=CC(=NC1)O[C@@H]1C[C@@H]2N(CCN(C2)C(=O)OC(C)(C)C)C1 | C17H24ClN3O3
